US07067658B2
2-Benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454, which is incorporated herein by reference in its entirety) (11 g, 41.6 mmol) and 2,4-dichlorophenylboronic acid (11.9 g, 62.3 mmol) were treated substantially as described in Part A of Example 19a to give 8.0 g (51%) of 2-benzyloxy-4-(2,4-dichloro-phenyl)-3-nitro-pyridine: MS (AP) m/z 375.2 [(M+H)+, 100].

reactant | 2-Benzyloxy-4-chloro-3-nitro-pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2,4-dichlorophenylboronic acid | 62.3 mmol, 11.9 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 2-benzyloxy-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 8.0 g, 51% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C18H12Cl2N2O3
